US05885990
Preparation of 6-amidino-1-(2-carbamoylethyl)-2-naphthyl 4-[(2-hydroxyethyl)aminoiminomethylamino]-benzoate.dihydrochloride:
20 Milliliters of 20% hydrous pyridine was added to 1.45 g of 4-[(2-hydroxyethyl)aminoiminomethylamino]benzoic acid.hydrochloride, 1.5 g of 6-amidino-1-(2-carbamoylethyl)-2-naphthol.hydrochloric acid, 1.26 g of DCC and 62.3 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 24 hours at room temperature. Thereafter, the same procedure as in Example 1 was effected to obtain 1.17 g of the desired product.

reactant | 4-[(2-hydroxyethyl)aminoiminomethylamino]benzoic acid.hydrochloride | 1.45 g | Cl.OCCNN=CNC1=CC=C(C(=O)O)C=C1
reactant | 6-amidino-1-(2-carbamoylethyl)-2-naphthol | 1.5 g | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CCC(N)=O)O | C14H15N3O2
reactant | hydrochloric acid | Cl | ClH
reactant | DCC | 1.26 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 62.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-(2-carbamoylethyl)-2-naphthyl 4-[(2-hydroxyethyl)aminoiminomethylamino]-benzoate.dihydrochloride | 1.17 g | Cl.Cl.OCCNN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CCC(N)=O)C=C1 | InChI=1S/C24H26N6O4.2ClH/c25-22(32)10-8-20-19-7-3-17(23(26)27)13-16(19)4-9-21(20)34-24(33)15-1-5-18(6-2-15)28-14-30-29-11-12-31;;/h1-7,9,13-14,29,31H,8,10-12H2,(H2,25,32)(H3,26,27)(H,28,30);2*1H
